US06265401B1
4-[2-(3-Oxo-2H-1,4-benzoxazin-4-yl)ethoxy]benzaldehyde
A mixture of 2H-1,4-benzoxazin-3-(4H)-one (1.6 g, 10.7 mmol), 4-(2-bromoethoxy)benzaldehyde (2.95 g, 12.8 mmol) and potassium carbonate (5.93 g, 42.97 mmol) in dry dimethyl formamide (30 mL) was stirred at 80° C. for 10 h. Water (100 mL) was added and extracted with ethyl acetate (2×75 mL). The combined organic layers were washed with water (50 mL), brine (50 mL), dried (Na2SO4), filtered and the solvent was evaporated. The residue was chromatographed over silica gel using a mixture of ethyl acetate and pet. ether (2:8) to afford the title compound (2.9 g, 91%) as a colorless solid. mp: 75-78° C.

reactant | 2H-1,4-benzoxazin-3-(4H)-one | 10.7 mmol, 1.6 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 4-(2-bromoethoxy)benzaldehyde | 12.8 mmol, 2.95 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 42.97 mmol, 5.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | dimethyl formamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-[2-(3-Oxo-2H-1,4-benzoxazin-4-yl)ethoxy]benzaldehyde | 2.9 g, 91% | O=C1COC2=C(N1CCOC1=CC=C(C=O)C=C1)C=CC=C2 | C17H15NO4
